US05981533
5-Amino-3-(4-amino-benzylamino)-4-cyano-pyrazole
A mixture of 15.71 g (64.3 mmol) of 3-(4-amino-benzylamino)-2-cyano-3-methylmercapto-acrylonitrile, 3.35 ml (67.5 mmol) of hydrazine hydrate and 90 ml of methanol is stirred for 1 hour at 20° C., heated under reflux for 4 hours and then concentrated by evaporation in vacuo. Digestion of the crystalline residue in 70 ml of diisopropyl ether, filtering and digestion again in 100 ml of isopropanol yield the title compound; m.p. 168-170° C.

reactant | 3-(4-amino-benzylamino)-2-cyano-3-methylmercapto-acrylonitrile | 64.3 mmol, 15.71 g | NC1=CC=C(CNC(=C(C#N)C#N)SC)C=C1 | C12H12N4S
reactant | hydrazine hydrate | 67.5 mmol, 3.35 ml | O.NN
solvent | methanol | 90 ml | CO | CH4O
product | 5-Amino-3-(4-amino-benzylamino)-4-cyano-pyrazole | NC1=C(C(=NN1)NCC1=CC=C(C=C1)N)C#N | C11H12N6
